* Z:\mnt\design.r\spice\examples\2920-1.asc
V1 IN 0 5
C1 OUT1 0 0.22µ
Rload1 OUT1 0 512
XU1 N002 N001 IN 0 OUT1 LT1028
R3 OUT1 N001 10K
R4 0 N001 10K
V2 N002 0 1
XU2 IN 0 N001 N003 IN LTC2920-1
R1 N003 0 60.4K
.tran 0.4m startup
.lib LTC.lib
.lib LTC2920-1.sub
.backanno
.end
