* Z:\mnt\design.r\spice\examples\2934-2.asc
R1 N002 N004 11.8K
R2 N004 0 237K
R3 N001 N002 750K
V1 N001 0 PWL(0 0 3.6 3.6 16 3.6 19.6 0 20.1 0 23.7 3.6)
V2 N007 0 PWL(0 0 7.999 0 8 3.6 8.499 3.6 8.5 0 24.999 0 25 3.6 25.5 3.6 25.501 0)
XU1 N002 N004 N001 0 N003 N005 N006 N001 LTC2934-2
M§Q1 N006 N007 0 0 BSS123
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 20
.lib LTC2934-2.sub
.backanno
.end
