* Z:\mnt\design.r\spice\examples\2935-1.asc
R1 N001 N002 10K
R2 N001 N003 10K
XU1 0 0 0 0 N003 N002 N004 N001 LTC2935-1
V1 N001 0 PULSE(0 3.6 0 3.6 3.6 3.6)
M§Q1 N004 N005 0 0 BSS123
V2 N005 0 PWL(0 0 4.999 0 5 5 6 5 6.001 0)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 14
.lib LTC2935-1.sub
.backanno
.end
