* Z:\mnt\design.r\spice\examples\2935-4.asc
V1 N001 0 PWL(0 0 3.6 3.6 16 3.6 19.6 0 20.1 0 23.7 3.6)
V2 N005 0 PWL(0 0 9.599 0 9.6 3.6 9.999 3.6 10 0)
XU1 0 0 0 0 N003 N002 N004 N001 LTC2935-4
M§Q1 N004 N005 0 0 BSS123
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 20
.lib LTC2935-4.sub
.backanno
.end
