* Z:\mnt\design.r\spice\examples\2950-1.asc
R1 IN N001 100K
C1 N005 0 .033µ
C2 N006 0 .033µ
V1 N002 0 PWL(0 3.3 1 3.3 1.001 0 2 0 2.001 3.3 3 3.3 3.001 0 4 0 4.001 3.3 4.5 3.3 4.501 0 5.5 0 5.501 3.3 9 3.3 9.001 0 10 0 10.001 3.3 10.8 3.3 10.801 0)
V2 IN 0 PWL(0 0 0.1 6)
R2 IN N003 10K
R3 IN N004 100K
V3 N007 0 PWL(0 0 6.999 0 7 5 8 5 8.001 0)
XU1 OUT OUT MP_01 0 N001 MP_02 MP_03 IN LT3010-5
C3 OUT 0 1µ
M§Q1 N004 N007 0 0 2N7002
XU2 IN N002 N005 0 N003 N001 N006 N004 LTC2950-1
Rload OUT 0 100
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 13
.lib LT3010.lib
.lib LTC2950-1.sub
.backanno
.end
