* Z:\mnt\design.r\spice\examples\3010-5.asc
V1 IN 0 PWL(0 0 1 10)
C1 OUT 0 1µ
Rload OUT 0 1K
XU1 OUT OUT MP_01 0 IN MP_02 MP_03 IN LT3010-5
.tran 1
.lib LT3010.lib
.backanno
.end
