* Z:\mnt\design.r\spice\examples\3048-15.asc
XU1 N002 IN 0 N003 OUT N001 IN N001 LT3048-15
V1 IN 0 3.2
L1 IN N002 10µ Rser=.2
C1 N001 0 4.7µ
C2 OUT N003 .1n
C3 OUT 0 1µ Rser=10m
Rload OUT 0 750
.tran 2.5m startup
.lib LT3048-15.sub
.backanno
.end
