* Z:\mnt\design.r\spice\examples\3130-1.asc
L1 N001 N002 6.8µ Rser=50m
C1 N001 N003 22n
C2 N002 N004 22n
V1 IN 0 20
C3 Vcc 0 4.7µ
Rload OUT 0 100
C5 OUT 0 10µ Rser=7m
R5 OUT N005 1Meg
XU1 0 N003 N001 IN IN IN Vcc Vcc Vcc Vcc 0 0 N005 OUT N004 N002 LTC3130-1
.tran 7.5m startup
.lib LTC3130-1.sub
.backanno
.end
