* Z:\mnt\design.r\spice\examples\3468-2.asc
L1 IN N003 20µ Rpar=2K Rser=.1
L2 0 N001 {20u*10.2*10.2} Rpar=1Meg
C1 OUT 0 .1µ
D1 N001 OUT D
R3 N002 IN 10K
V1 IN 0 5
C3 N001 0 10p
D2 0 N003 1N5817
XU1 N003 0 N002 IN IN LT3468-2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 10m startup
K1 L1 L2 1
.lib LT3468-2.sub
.backanno
.end
