* Z:\mnt\design.r\spice\examples\3493-3.asc
V1 IN 0 6
L1 N002 OUT 20µ
R1 OUT N003 32.4K
R2 0 N003 10K
D1 0 N002 MBRS340
C2 OUT 0 10µ
Rload OUT 0 3
C3 OUT N003 22p
XU1 N003 0 N001 N002 IN IN LT3493-3
C1 N001 N002 .1µ
D3 OUT N001 BAT54
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 250u startup
.lib LT3493-3.sub
.backanno
.end
