* Z:\mnt\design.r\spice\examples\3523-2.asc
V1 IN 0 2
L1 IN N001 4.7µ
R1 OUT1 N004 634K
R2 N004 0 365K
C1 OUT1 0 10µ
L2 N002 OUT2 4.7µ
R3 OUT2 N003 511K
R4 N003 0 511K
C2 OUT2 0 10µ
C3 OUT2 N003 10p
XU1 N004 IN NC_01 OUT1 N001 0 0 N002 IN NC_02 NC_03 N003 IN 0 IN IN LTC3523-2
Rload1 OUT1 0 16.5
Rload2 OUT2 0 6
.tran .6m startup
.lib LTC3523-2.sub
.backanno
.end
