* Z:\mnt\design.r\spice\examples\3525-3.asc
L1 IN N001 10µ
C1 OUT 0 10µ
V1 IN 0 1
Rload OUT 0 50
XU1 IN 0 IN OUT MP_01 N001 LTC3525-3
.tran 1m startup
.lib LTC3525-3.sub
.backanno
.end
