* Z:\mnt\design.r\spice\examples\3541-2.asc
V1 IN 0 3.6
L1 N001 OUT1 2.2µ
C1 OUT1 0 10µ
C2 OUT2 0 2.2µ
XU1 IN IN OUT1 MP_01 OUT2 OUT1 0 0 IN N001 LTC3541-2
Rload1 OUT1 0 9.375
Rload2 OUT2 0 5
.tran 1m startup
.lib LTC3541-2.sub
.backanno
.end
