* Z:\mnt\design.r\spice\examples\3541-3.asc
V1 IN 0 3.6
L1 N001 OUT1 2.2µ
C1 OUT1 0 10µ
Rload1 OUT1 0 9
C2 OUT2 0 2.2µ
Rload2 OUT2 0 52.5
XU1 IN IN OUT1 MP_01 OUT2 OUT1 0 0 IN N001 LTC3541-3
.tran 3m startup
.lib LTC3541-3.sub
.backanno
.end
