* Z:\mnt\design.r\spice\examples\3542-1.asc
V1 IN 0 3.6
L1 N001 OUT 2.2µ
C1 OUT 0 10µ
Rload OUT 0 5.6
XU1 OUT IN 0 N001 0 IN LTC3542-1
.tran 2.5m startup
.lib LTC3542-1.sub
.backanno
.end
