* Z:\mnt\design.r\spice\examples\3548-1.asc
V1 IN 0 5
C2 1.8V 0 10µ
L1 N002 1.8V 2.2µ
Rload1 1.8V 0 4
C1 1.575V 0 4.7µ
L2 N001 1.575V 4.7µ
Rload2 1.575V 0 10
XU1 1.8V IN IN N002 0 IN N001 MP_01 IN 1.575V LTC3548-1
.tran 200u startup
.lib LTC3548-1.sub
.backanno
.end
