* Z:\mnt\design.r\spice\examples\3559-1.asc
V1 IN 0 5
R1 N004 0 1.74K
C1 BAT 0 10µ
L1 N001 OUT1 4.7µ
C2 OUT1 N002 22p Rpar=655K
R2 N002 0 309K
C3 OUT1 0 10µ
L2 N003 OUT2 4.7µ
R3 N005 0 649K
C4 OUT2 0 10µ
C5 OUT2 N005 22p Rpar=324K
XU1 0 BAT 0 N002 IN N001 BAT N003 IN N005 NC_01 IN MP_02 N004 NC_03 IN LTC3559-1
Rload1 OUT1 0 6
Rload2 OUT2 0 3
.tran 1.5m startup
.lib LTC3559-1.sub
.backanno
.end
